US06706702B2
C) Trifluoro-methanesulfonic Acid 2-(cyclopent-3-enecarbonyl)-4-methoxy-phenyl Ester
Cyclopent-3-enyl-(2-hydroxy-5-methoxy-phenyl)-methanone (39.5 g crude, 172 mmol) and pyridine (28.7 g, 362 mmol) were stirred in CH2Cl2 (300 mL) at −78° C. under N2. To this a solution trifluoromethane sulfonic anhydride (63.8 g. 226 mmol) in CH2Cl2 (100 mL) was added dropwise over ½ hour. The mixture was allowed to warm to ambient temperature and stirred 1 h then poured Into a 1N aq. HCl soln. (250 mL). The mixture was shaken, the layers were separated, and the organic layer was washed with a1N aq. HCl soln. (3×150 mL), H2O (2×100 mL), a sat. aq. NaHCO3 soln. (100 mL) and, finally, brine (100 mL). The organic layer was dried through a cotton plug and concentrated to an oil which was chromatographed through a Silica gel plug eluting with 10% EtOAc/hexanes to afford after concentration an oil (55.7 g, 93% over 2 steps). GCMS m/e 350 (M+).

reactant | Cyclopent-3-enyl-(2-hydroxy-5-methoxy-phenyl)-methanone | 172 mmol, 39.5 g | C1(CC=CC1)C(=O)C1=C(C=CC(=C1)OC)O | C13H14O3
reactant | pyridine | 362 mmol, 28.7 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethane sulfonic anhydride | 226 mmol, 63.8 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | HCl | 1N | Cl | ClH
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic Acid 2-(cyclopent-3-enecarbonyl)-4-methoxy-phenyl Ester | C1(CC=CC1)C(=O)C1=C(C=CC(=C1)OC)OS(=O)(=O)C(F)(F)F | C14H13F3O5S
